US07494992B2
(1S,2R,4aS,5S,8R,8aR)-8a-hydroxy-3,8-dimethyl-2-({[(1-methylethenyl)oxy]carbonyl}oxy)-5-(1-methylethyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate
To (1S,4aS,5S,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 144, 50 mg, 0.096 mmol) and 4-dimethylaminopyridine (35 mg, 0.29 mmol) in dichloromethane (5 ml) at 0° C. under nitrogen was added isopropenyl chloroformate (17.4 mg, 0.144 mmol) and the resulting mixture stirred at 0° C. for 30 minutes and at room temperature for 2 hours. The reaction mixture was diluted with dichloromethane (25 ml) and washed with citric acid solution (3×15 ml), dried (MgSO4) and concentrated in vacuo. The crude product was purified by chromatography on silica (5 g) eluting with hexane:ethyl acetate (1:1). The pure fractions were combined and concentrated in vacuo to give the title product (56 mg, 96%).

reactant | (1S,4aS,5S,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 0.096 mmol, 50 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3C(C(=C[C@@H]2[C@@H](CCC([C@]32O)C)C(C)C)C)O)O | C27H37ClN2O6
reactant | isopropenyl chloroformate | 0.144 mmol, 17.4 mg | ClC(=O)OC(=C)C | C4H5ClO2
catalyst | 4-dimethylaminopyridine | 0.29 mmol, 35 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (1S,2R,4aS,5S,8R,8aR)-8a-hydroxy-3,8-dimethyl-2-({[(1-methylethenyl)oxy]carbonyl}oxy)-5-(1-methylethyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 56 mg, 96% | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@@H](CC[C@H]([C@]32O)C)C(C)C)C)OC(=O)OC(=C)C)O | C31H41ClN2O8
